US08252820B2
The following examples are prepared using appropriate starting materials and general procedures described in Example 16 and Example 9 with the following exceptions. For 35-1, after step A of Example 9, the material is esterified by stirring 100 mg of 3-{3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-propionic acid with 10 mL Ethanol and 0.2 mL H2SO4 for 3.5 hours. Ethyl acetate is added followed by evaporation of ethanol. The material is then extracted between ethyl acetate and water, and the organic layer is dried over sodium sulfate, filtered, concentrated to afford 3-{3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-propionic acid ethyl ester and used in the next step, analogous to Example 9 step B, without purification. For 35-4, after step A of Example 9, the ester, 3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-benzoic acid ethyl ester is hydrolyzed by addition of 0.84 mL of 1 M NaOH and heated in by microwave irradition for 30 min at 120° C. The aqueous layer is filtered and extracted with 1:1 ether hexanes. The aqueous layer is acidified and extracted 3 times with EtOAc, and the combined organic layers are dried over Mg2SO4, filtered and concentrated to afford 3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-benzoic acid which is used in the next step without purification.

reactant | 3-{3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-propionic acid | 100 mg | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=C(C1N1S(NC(C1)=O)(=O)=O)F)C=1C=C(C=CC1)CCC(=O)O | C28H23FN2O6S
reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | H2SO4 | 0.2 mL | OS(=O)(=O)O | H2O4S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{3-[6-Benzyloxy-8-fluoro-7-(1,1,4-trioxo-[1,2,5]thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=CC(=CC=C1)C1=CC2=C(C(=C(C=C2C=C1)OCC1=CC=CC=C1)N1S(NC(C1)=O)(=O)=O)F)=O | C30H27FN2O6S
